US05580893
N-(2-Nitroxyethyl)-2-phenoxypropanamide (Exemplified compound No. 19)
Following a similar treatment to that in Example 2 and using 0.71 g of 2-phenoxypropionic acid and 0.60 g of 2-nitroxyethylamine nitrate, 0.49 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 2-phenoxypropionic acid | 0.71 g | O(C1=CC=CC=C1)C(C(=O)O)C | C9H10O3
reactant | 2-nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-phenoxypropanamide | 0.49 g | O([N+](=O)[O-])CCNC(C(C)OC1=CC=CC=C1)=O | C11H14N2O5
